US09062044B2
Step C: 3-Benzylamino-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester.
To a mixture of 5-benzylamino-3,6-dihydro-2H-pyridine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (10.2 g, 28.9 mmol) in toluene (110 mL) was added NaBH(OAc)3 (30 g, 141.5 mmol) and freshly activated 4A0 powder molecular sieve (24 g) with vigorous stirring. The reaction mixture was cooled to 0° C., then acetic acid (32.5 mL, 566 mmol) was added drop-wise in such a way that reaction mixture temperature remained below 5° C. After the addition of acetic acid was complete, the mixture was allowed to warm to ambient temperature and stirred for 16 h. The reaction mixture was filtered and concentrated to remove most of the acetic acid. The crude residue was dissolved in ethyl acetate (125 mL) and saturated aqueous NaHCO3 solution (100 mL) was slowly added to neutralize the residual acid under stirring. The layers were separated and the aqueous layer was extracted with ethyl acetate (2×100 mL). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure (11.25 g, crude). The residue was purified (FCC, SiO2, ethyl acetate/hexanes, gradient 0-40%) to yield the title compound (4.59 g, 45%). MS (ESI) mass calcd. for C20H30N2O2, 362.46; m/z found, 363.3 [M+H]+. 1H NMR (DMSO-d6): 7.53-6.76 (m, 5H), 4.10-3.96 (m, 3H), 3.89-3.87 (m, 1H), 3.66 3.54 (m, 1H), 3.05-2.60 (m, 4H), 1.80-1.65 (m, 2H), 1.60-1.45 (m, 1H), 1.40 (s, 9H), 1.14 (t, J=7.1, 3H).

reactant | 5-benzylamino-3,6-dihydro-2H-pyridine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 28.9 mmol, 10.2 g | C(C)OC(=O)C=1CCN(CC1NCC1=CC=CC=C1)C(=O)OC(C)(C)C | C20H28N2O4
reactant | NaBH(OAc)3 | 141.5 mmol, 30 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 566 mmol, 32.5 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 110 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Benzylamino-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 4.59 g, 45% | C(C)OC(=O)C1C(CN(CC1)C(=O)OC(C)(C)C)NCC1=CC=CC=C1 | C20H30N2O4
